US06548522B1
N-(5-Methoxy-pentyl)-2,2-diphenyl-acetamide
The title compound, white solid, m.p. 74.2-75.0° C. and MS: m/e=312 (M+H+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and 5-methoxy-pentylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | 5-methoxy-pentylamine | COCCCCCN | C6H15NO
product | N-(5-Methoxy-pentyl)-2,2-diphenyl-acetamide | COCCCCCNC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H25NO2
